US04604390
3-[2-(5-Nitro-2H[1]benzothiopyrano[4,3,2-cd]indazol-2-yl)ethyl]-2-oxazolidinone
A mixture of 1.0 g (0.0025 mol) of 2-[[2-(5-nitro-2H[1]benzothiopyrano[4,3,2-cd]indazol-2-yl)-ethyl]amino]ethanol, 10.0 g (0.045 mol) of diphenyl carbonate, 0.3 g (0.0036 mol) of NaOAc and 10.0 g of phenol was treated at 110° C. for 16 hours, allowed to cool to room temperature, and triturated twice in a small amount of acetone. The insoluble material was recrystallized to give the product.

reactant | 2-[[2-(5-nitro-2H[1]benzothiopyrano[4,3,2-cd]indazol-2-yl)-ethyl]amino]ethanol | 0.0025 mol, 1.0 g | [N+](=O)([O-])C1=C2C=3C(=NN(C3C=C1)CCNCCO)C1=C(S2)C=CC=C1 | C17H16N4O3S
reactant | diphenyl carbonate | 0.045 mol, 10.0 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | NaOAc | 0.0036 mol, 0.3 g | CC(=O)[O-].[Na+]
reactant | phenol | 10.0 g | C1(=CC=CC=C1)O | C6H6O
product | 3-[2-(5-Nitro-2H[1]benzothiopyrano[4,3,2-cd]indazol-2-yl)ethyl]-2-oxazolidinone | [N+](=O)([O-])C1=C2C=3C(=NN(C3C=C1)CCN1C(OCC1)=O)C1=C(S2)C=CC=C1 | C18H14N4O4S
